Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
left testicular pain and swelling, fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year-old male
with the history below who presented to the ___ Emergency room
complaining of left testicular pain.  Began approx. 10 dd ago
with dysuria, recently started on tamsulosin and miralax after
seeing pcp, improved sl but then last sat testicular pain began
radiating to the abdomen, and a/w sweats and fevers

In the ED he was found to be tachycardic, highly febrile, and
with marked leukocytosis; he had blood and urine cultures, was
given zosyn, IVF, seen by ___.  GU felt sepsis d/t
epidydimo-orchitis, recommended admission and management by
medicine 

U/S and CT imaging c/w this (reviewed)

His initial lactate was reassuring at 1.0

Of note - Dr. ___ reviewed, noting recent sexual
activity with both women and men (see below in clinical decision
making), but has only one sexual partner now

On my exam he is comfortable, no current pain.  He does describe
sexual activity most recently 2 months ago.  He is sexually
active with both men and women.  He consents to HIV testing
verbally.  

He also describes 10 dd of some substernal chest pain concurrent
with this illness, mild, a/w some sob, some mild nausea,
radiating occ to bt arms, worse with exertion, alleviated by 
rest.  

 
Past Medical History:
- distant hx of ulcers treated in ___
- new dx of BPH, hemorrohoids
 
Social History:
___
Family History:
mother with diabetes
 
Physical Exam:
On admission:
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERRL, EOMI, no conjuctival injection, anicteric
ENT: normal appearing ears, no sinus tenderness, MMM of nose and
throat without evident abnromality, oropharynx without exudate 
or
lesions, no supraclavicular or cervical lymphadenopathy, no
thyromegaly or palpable thyroid nodules
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops. 
No JVD.  No carotid bruits
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: no cyanosis, clubbing or edema.  WWP
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization.  Cn II-XII intact.  ___ strength throughout all
extremities and symmetric.  No sensory deficits to light touch
appreciated.  No pass-pointing on finger to nose. 
2+DTR's-patellar and biceps. No asterixis, no pronator drift,
fluent speech.
Psychiatric: pleasant, appropriate affect
GU: no urinary catheter in place, lt scrotum edematous,
erythematous, firm, ttp, no crepitation, no extension of
erythema, no fluctuance

On discharge swelling and pain in his scrotum improved 
significantly but haven't resolved. 
 
Pertinent Results:
___ 03:55PM BLOOD WBC-27.5* RBC-5.38 Hgb-15.8 Hct-48.2 
MCV-90 MCH-29.4 MCHC-32.8 RDW-12.5 RDWSD-40.9 Plt ___
___ 06:41AM BLOOD WBC-6.4 RBC-4.77 Hgb-13.8 Hct-42.8 MCV-90 
MCH-28.9 MCHC-32.2 RDW-12.6 RDWSD-41.7 Plt ___
___ 03:55PM BLOOD Neuts-89.7* Lymphs-5.0* Monos-4.1* 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-24.65* AbsLymp-1.37 
AbsMono-1.13* AbsEos-0.05 AbsBaso-0.07
___ 06:41AM BLOOD Neuts-61.6 ___ Monos-6.9 Eos-7.4* 
Baso-0.5 Im ___ AbsNeut-3.92 AbsLymp-1.45 AbsMono-0.44 
AbsEos-0.47 AbsBaso-0.03
___ 03:55PM BLOOD Glucose-117* UreaN-13 Creat-0.9 Na-139 
K-5.2 Cl-97 HCO3-26 AnGap-16
___ 08:05AM BLOOD Glucose-102* Creat-0.9 Na-143 K-4.0 
Cl-106 HCO3-25 AnGap-12
___ 07:40AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-POS* 
IgM HAV-NEG
___ 08:10AM BLOOD Trep Ab-PND
___ 09:00AM BLOOD HIV Ab-NEG
___ 07:40AM BLOOD HCV Ab-NEG
___ 05:57PM BLOOD Lactate-1.0

US ___
Findings suggest left-sided orchitis.  Left varicocele.

CT abd/plv ___
1. Increased vascularity to left testicle compatible with 
orchitis, as seen on same day scrotal ultrasound. 
2. No acute intra-abdominal or intrapelvic pathology otherwise 
demonstrated. 3. Mild prostatomegaly. 

CXR ___
Streaky bibasilar atelectasis.  Otherwise, no acute 
cardiopulmonary 
abnormality. 

Normal ECG
 
Brief Hospital Course:
___ yo M with history of BPH, hemorrhoids, presented with few 
days history of scrotal pain and swelling. 

# Orchitis 
# Sepsis (source, wbc, tachycardia, fever) d/t 
epidydimo-orchitis
- 
- Initial empirical therapy with Zosyn/ doxy suggested by ID, 
given for 3 days then switched to PO Levo and Augmentin
- STDs testing negative, syphilis antibodies pending at 
discharge 
- HIV negative
- Please f/u final blood cultures, NGTD
- Hepatitis screen IgG to hep A, not immune to hepB
- Ice packs and ibuprofen used for pain control 
- Plan per ID and urology to continue with oral antibiotics. Per 
urology needs to finish at least 2 weeks, if still having 
symptoms after should extend the course. 

# substernal cp over 10 dd with this illness, mild, a/w sob,
nausea, occ radiation to bt arms, alleviated by rest, worse with
exertion, c/w angina
- asa 325 mg given on presentatoin
- ecg looks normal 
- cardiac biomarkers normal 
- likely related to chronic dry cough,
- Most of he time he points to his epigastric area when
mentioning the pain, says he was told in the past he has PUD.
Will start empirical PPI, if no improvement in 4 weeks should
consider EGD. 

# BPH - cont tamsulosin with holding parameters for bp iso 
sepsis
# hemorrhoids - symptomatic rx prn

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
3. Procto-Med HC (hydrocorTISone) 2.5 % topical Q8H:PRN 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*20 Tablet Refills:*0 
3.  LevoFLOXacin 500 mg PO DAILY 
RX *levofloxacin [Levaquin] 500 mg 1 tablet(s) by mouth once 
daily Disp #*10 Tablet Refills:*0 
4.  Omeprazole 20 mg PO DAILY Duration: 4 Weeks 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
6.  Procto-Med HC (hydrocorTISone) 2.5 % topical Q8H:PRN  
7.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Orchitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Senior ___,

You were admitted to ___ for having left testicular infection 
(orchitis). Gladly, you have responded to the antibiotics. 
Please continue to take the ones prescribed to you and schedule 
follow up with your primary care doctor shortly after. 

For your epigastric pain, please try the medication prescribed 
to you (omeprazole) for four weeks, if you still having pain 
after talk to your doctor about having a scope to look for 
ulcers.

Best wishes from the ___ Medicine Team 
 
Followup Instructions:
___